US06107329
5-Cyano-1H-indole-2-carboxylic acid
5-Cyano-1H-indole-2-carboxylic acid ethyl ester (1.71 g, 8.0 mmol) was added to a solution of ethanol (10 mL) and potassium hydroxide (2 g) and the resulting mixture heated at reflux for 1 hour. Water was added to dissolve the precipitate, and 6N HCl was added to bring the pH to 1. A precipitate formed. The mixture was cooled in an ice bath, filtered, and the resulting colorless solid washed with cold water and dried (1.51 g). A portion (1.4 g) was suspended in hot acetic acid (40 mL) and cooled giving a solid which was filtered, washed with cold ethyl acetate and dried: Yield 980 mg (70%); HPLC (60/40) 3.09 minutes (97%).

reactant | 5-Cyano-1H-indole-2-carboxylic acid ethyl ester | 8.0 mmol, 1.71 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)C#N | C12H10N2O2
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | potassium hydroxide | 2 g | [OH-].[K+]
reactant | HCl | 6N | Cl | ClH
solvent | Water | O | H2O
product | 5-Cyano-1H-indole-2-carboxylic acid | C(#N)C=1C=C2C=C(NC2=CC1)C(=O)O | C10H6N2O2
